Name:  ___                Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: CARDIOTHORACIC
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___
 
Chief Complaint:
Shortness of breath
 
Major Surgical or Invasive Procedure:
___ 
1.  Coronary artery bypass graft x 5, four arterial grafts using 
bilateral internal mammary arteries and one long saphenous vein 
graft.
2.  Skeletonized left internal mammary artery to left anterior
descending artery.
3.  Skeletonized free right internal mammary artery sequential
grafting to the ramus 1, ramus 2 and obtuse marginal arteries.
4.  Long saphenous vein graft to posterior left ventricular 
branch.
5.  Endoscopic harvesting of the long saphenous vein.

 
History of Present Illness:
Mr. ___ is a ___ year old male with known CAD s/p stent 
___, s/p stroke ___ and NIDDM who currently smokes 1.5 PPD of 
cigarettes. He has been complaining of increased shortness of 
breath. He works part time at ___ and does notice lower 
extremity swelling after a long day. EF of 35-40% by Echo on 
___. He underwent a nuclear stress test on ___ 
which revealed a moderate size, moderately severe inferior 
ischemia and small mild apical scar/infarction. Underwent a 
cardiac catheterization on ___ which revealed severe 
three-vessel coronary artery disease. Presents today for 
surgical evaluation.
 
Past Medical History:
- Coronary artery disease s/p s/p stent ___ 
- Ischemic Cardiomyopathy 
- Hypertension 
- Hypercholesterolemia 
- History of Stroke ___ right sided weakness and slurred speech 

- Carotid Artery Disease 
- Anxiety / Depression 
- Sleep Apnea, uses CPAP 
- NIDDM with peripheral neuropathy 
- ? Seizure disorder 
- Active smoker 
- s/p bilateral carpal tunnel surgery 
 
Social History:
___
Family History:
- Father underwent CABG at age ___
 
Physical Exam:
Admission Exam:
VS: BP: 142/82 (left arm ). Heart Rate: 66. O2 Saturation%: 99 
(room
air ). Resp. Rate: 17. Pain Score: 0.
Height: 5'8"   Weight: 220lbs

General: WDWN male in no acute distress; +smelled of tobacco
Skin: Dry [x] intact [x]
HEENT: PERRL [x] EOMI [x]
Neck: Supple [x] Full ROM [x]
Chest: Lungs clear bilaterally [x]
Heart: RRR [x] Irregular [] Murmur [] grade ______ 
Abd: Soft [x] non-distended [x] non-tender [x] bowel sounds + 
Extremities: Warm [x], well-perfused [x]  
Edema: None
Varicosities: None 
Neuro: + slurred speech; alert and oriented x 3; diffuse right 
sided weakness
Pulses:
Femoral      Right: 2  Left: 2
DP           Right: palp  Left: palp
___           Right: palp  Left: palp
Radial       Right: 2  Left: 2
Carotid Bruit:        Right: soft   Left: none

 
Pertinent Results:
Echo ___:
PRE BYPASS The left atrium is dilated. No spontaneous echo 
contrast or thrombus is seen in the body of the left atrium/left 
atrial appendage or the body of the right atrium/right atrial 
appendage. The right atrium is dilated. No atrial septal defect 
is seen by 2D or color Doppler. There is severe symmetric left 
ventricular hypertrophy. The left ventricular cavity is 
moderately dilated. Regional left ventricular wall motion is 
normal. Overall left ventricular systolic function is low normal 
(LVEF 50-55%). The right ventricle displays normal free wall 
contractility. The ascending aorta is mildly dilated. There are 
simple atheroma in the ascending aorta. There are simple 
atheroma in the aortic arch. There are simple atheroma in the 
descending thoracic aorta. There are three aortic valve 
leaflets. The aortic valve leaflets are moderately thickened. 
There are filamentous strands on the aortic leaflets consistent 
with Lambl's excresences (normal variant). There is no aortic 
valve stenosis. No aortic regurgitation is seen. The mitral 
valve leaflets are moderately thickened. Mild (1+) mitral 
regurgitation is seen. The tricuspid valve leaflets are mildly 
thickened. There is no pericardial effusion. Dr. ___ 
was notified in person of the results in the operating room at 
the time of the study.
POST BYPASS The patient is atrially paced. There is normal right 
ventricular systolic function. The left ventricle displays mild 
global hypokinesis and moderate inferior wall hypokinesis. The 
left ventricular ejection fraction is about 40%. There is no 
change in valvular function. The thoracic aorta is intact after 
decannulation.
 

___ ___  ___  ___ 
 
Radiology Report CHEST (PA & LAT) Study Date of ___ 11:28 
AM 
 
  

___ ___ 11:28 AM 
CHEST (PA & LAT)   Clip # ___   
Reason: r/o eff, inf  
 
 

UNDERLYING MEDICAL CONDITION: 
   ___ year old man with cabg  
REASON FOR THIS EXAMINATION: 
   r/o eff, inf  
 

 

Final Report 
INDICATION:  ___ year old man with cabg// r/o eff, inf 
  
TECHNIQUE:  Chest PA and lateral 
  
COMPARISON:  ___ 
  
IMPRESSION:  
  
Lungs are well expanded with stable small left effusion.  
Right-sided PICC 
line projects to the cavoatrial junction.  Cardiomediastinal 
silhouette is 
stable.  No pneumothorax is seen. 
 

___ 05:17AM BLOOD WBC-13.2* RBC-3.66* Hgb-11.3* Hct-34.6* 
MCV-95 MCH-30.9 MCHC-32.7 RDW-12.1 RDWSD-41.6 Plt ___
___ 01:38AM BLOOD ___ PTT-26.4 ___
___ 05:17AM BLOOD Glucose-101* UreaN-39* Creat-0.9 Na-147 
K-4.5 Cl-105 ___ AnGap-11
 
Brief Hospital Course:
Mr. ___ was admitted and taken to the operating room on 
___ where he underwent a coronary artery bypass graft x5. 
Please see operative note for surgical details. In summary he 
had: 1.  Coronary artery bypass graft x 5, four arterial grafts 
using bilateral internal mammary arteries and one long saphenous 
vein graft.
2.  Skeletonized left internal mammary artery to left anterior 
descending artery.
3.  Skeletonized free right internal mammary artery sequential 
grafting to the ramus, ramus 2 and obtuse marginal arteries.
4.  Long saphenous vein graft to posterior left ventricular 
branch.
5.  Endoscopic harvesting of the long saphenous vein.
He tolerated the surgery well and post-operatively he was taken 
to the CVICU for invasive monitoring in stable condition. ICU 
course was complicated by prolonged intubation due secretions, 
and hypoxia. He failed trial extubation due to inability to 
manage his secretions and was reintubated. He then was 
aggressively diuresed with Lasix infusion. He was febrile and 
started on empiric antibiotics for possible PNA, however 
cultures were negative and antibx were stopped. Due to prolonged 
intubation, tube feedings were initiated via a dobhoff tube. 
Once extubated successfully on POD#9, he was delirious, 
agitation, and confusion and was managed with Ativan prn. Of 
note, he was taking Clonazepam at home prior to admission. He 
was evaluated by psychiatry per his family's request. Psychiatry 
recommended stopping clonazepam, adequately treating pain and 
giving consistent messages regarding plan of care. By the time 
of discharge his delirium was significantly improved.  
 His hospital course was further complicated by acute kidney 
injury and hypernatremia. At the time of discharge his creat was 
trending back toward baseline, his sodium remained elevated and 
he was receiving free water via dophoff tube. He was noted to 
cough with liquids. He was evaluated by speech and swallow team 
and the following was recommended: nectar thick liquids and 
pureed solids and meds crushed in apple sauce. 1:1 supervision. 
His chest tubes and pacing wires were removed per cardiac 
surgery protocol without complication. On POD 10 he was 
transferred to the stepdown floor for continued care and 
recovery. He worked with nursing and physical therapy to 
increase his strength and conditioning.  
 Physical therapy recommended a short stay at rehabilitation 
upon discharge. On POD#16 he was transferred to ___ 
___ in ___ in stable condition. All appointments and 
instructions were advised and provided to the rehab facility.  
 
Medications on Admission:
CLONAZEPAM - clonazepam 2 mg tablet. tablet(s) by mouth once a 
day as needed -  (Prescribed by Other Provider)
CLOPIDOGREL - clopidogrel 75 mg tablet. 1 tablet(s) by mouth 
once a day -  (Prescribed by Other Provider)
DULOXETINE [CYMBALTA] - Cymbalta 60 mg capsule,delayed release. 
capsule(s) by mouth daily -  (Prescribed by Other Provider)
ISOSORBIDE MONONITRATE - isosorbide mononitrate ER 30 mg 
tablet,extended release 24 hr. 1 tablet(s) by mouth once a day - 
(Prescribed by Other Provider)
LISINOPRIL - lisinopril 2.5 mg tablet. 1 tablet(s) by mouth once 
a day -  (Prescribed by Other Provider)
NIFEDIPINE [PROCARDIA XL] - Procardia XL 60 mg tablet,extended 
release. 1 tablet(s) by mouth once a day -  (Prescribed by Other 
Provider)
SIMVASTATIN - simvastatin 40 mg tablet. 1 tablet(s) by mouth 
once a day -  (Prescribed by Other Provider)
 
Medications - OTC
ASPIRIN - aspirin 325 mg tablet. 0.5 (One half) tablet(s) by 
mouth once a day -  (Prescribed by Other Provider)
 
Discharge Medications:
1.  Acetaminophen 1000 mg PO Q6H  
2.  Albuterol 0.083% Neb Soln 1 NEB IH Q6H:PRN wheezes  
3.  amLODIPine 10 mg PO DAILY  
4.  Bisacodyl ___AILY:PRN constipation  
5.  Docusate Sodium 100 mg PO BID  
6.  FoLIC Acid 1 mg PO DAILY  
7.  Heparin 5000 UNIT SC BID  
8.  Isosorbide Dinitrate 20 mg PO Q8H  
9.  Multivitamins W/minerals 1 TAB PO DAILY  
10.  Pantoprazole 40 mg PO Q24H  
11.  Polyethylene Glycol 17 g PO DAILY  
12.  Ramelteon 8 mg PO QHS 
Should be given 30 minutes before bedtime  
13.  Thiamine 100 mg PO DAILY  
14.  Aspirin 81 mg PO DAILY  
15.  ClonazePAM 0.5 mg PO BID  
16.  Clopidogrel 75 mg PO DAILY  
17.  DULoxetine 60 mg PO DAILY  
18.  Simvastatin 40 mg PO QPM  

 
Discharge Disposition:
Extended Care
 
Facility:
___
 
Discharge Diagnosis:
Coronary artery disease s/p Coronary artery bypass graft x 5
Past medical history:
- s/p stent ___
- Ischemic Cardiomyopathy
- Hypertension
- Hypercholesterolemia
- History of Stroke ___ right sided weakness and slurred speech
- Carotid Artery Disease
- Anxiety / Depression
- Sleep Apnea, uses CPAP
- NIDDM with peripheral neuropathy
- ? Seizure disorder
- Active smoker
- s/p bilateral carpal tunnel surgery
 
Discharge Condition:
Alert and oriented x3, non-focal
 Ambulating with assistance
 Sternal pain managed with oral analgesics
 Sternal Incision - healing well, no erythema or drainage
Edema-none

 
Discharge Instructions:
Please shower daily -wash incisions gently with mild soap, no 
baths or swimming, look at your incisions daily
 Please - NO lotion, cream, powder or ointment to incisions
 Each morning you should weigh yourself and then in the evening 
take your temperature, these should be written down on the chart
 No driving for one month or while taking narcotics.
Clearance to drive will be discussed at follow up appointment 
with surgeon
 No lifting more than 10 pounds for 10 weeks
Encourage full shoulder range of motion, unless otherwise 
specified
 
**Please call cardiac surgery office with any questions or 
concerns ___. Answering service will contact on call 
person during off hours**

 
Followup Instructions:
___